Benchmark C17 V5 (C17_Nor)

****** Dispositivos Lógicos ******

.include ../../include.cir

****** HGSPICE ******

.option measform = 3
.option post = 0

****** Circuito ******

// INV
Mp11 vdd td ntd td PMOS_RVT nfin=3
Mn11 ntd td gnd td NMOS_RVT nfin=3

// INV
Mp12 vdd ta nta ta PMOS_RVT nfin=3
Mn12 nta ta gnd ta NMOS_RVT nfin=3

// NAND
Mp21 vdd nta e1 nta PMOS_RVT nfin=3
Mp22 vdd tb e1 tb PMOS_RVT nfin=3
Mn21 e1 nta i1 nta NMOS_RVT nfin=3
Mn22 i1 tb gnd tb NMOS_RVT nfin=3

// NOR
Mp31 vdd e1 i2 e1 PMOS_RVT nfin=3
Mp32 i2 ntd e2 ntd PMOS_RVT nfin=3
Mn31 e2 e1 gnd e1 NMOS_RVT nfin=3
Mn32 e2 ntd gnd ntd NMOS_RVT nfin=3

// NOR
Mp41 vdd tb i3 tb PMOS_RVT nfin=3
Mp42 i3 tc e3 tc PMOS_RVT nfin=3
Mn41 e3 tb gnd tb NMOS_RVT nfin=3
Mn42 e3 tc gnd tc NMOS_RVT nfin=3

// NOR
Mp51 vdd ta i4 ta PMOS_RVT nfin=3
Mp52 i4 tc e4 tc PMOS_RVT nfin=3
Mn51 e4 ta gnd ta NMOS_RVT nfin=3
Mn52 e4 tc gnd tc NMOS_RVT nfin=3

// OR
Mp61 vdd e4 i5 e4 PMOS_RVT nfin=3
Mp62 i5 e3 ne5 e3 PMOS_RVT nfin=3
Mn61 ne5 e4 gnd e4 NMOS_RVT nfin=3
Mn62 ne5 e3 gnd e3 NMOS_RVT nfin=3
Mp63 vdd ne5 e5 ne5 PMOS_RVT nfin=3
Mn63 e5 ne5 gnd ne5 NMOS_RVT nfin=3

// NOR
Mp01 vdd e2 i6 e2 PMOS_RVT nfin=3
Mp02 i6 e5 g1 e5 PMOS_RVT nfin=3
Mn01 g1 e2 gnd e2 NMOS_RVT nfin=3
Mn02 g1 e5 gnd e5 NMOS_RVT nfin=3


// NOR
Mp71 vdd te i7 te PMOS_RVT nfin=3
Mp72 i7 tc e8 tc PMOS_RVT nfin=3
Mn71 e8 te gnd te NMOS_RVT nfin=3
Mn72 e8 tc gnd tc NMOS_RVT nfin=3

// NAND
Mp81 vdd td i82 td PMOS_RVT nfin=3
Mp82 vdd tb i82 tb PMOS_RVT nfin=3
Mn81 i82 td i81 td NMOS_RVT nfin=3
Mn82 i81 tb gnd tb NMOS_RVT nfin=3

// INV
Mp83 vdd i82 e9 i82 PMOS_RVT nfin=3
Mn83 e9 i82 gnd i82 NMOS_RVT nfin=3

// NOR
Mp91 vdd e8 i9 e8 PMOS_RVT nfin=3
Mp92 i9 e9 g2 e9 PMOS_RVT nfin=3
Mn91 g2 e8 gnd e8 NMOS_RVT nfin=3
Mn92 g2 e9 gnd e9 NMOS_RVT nfin=3

//Representação de um circuito pós benchmark
xff1 clk g1 q1 nq1 vcc gnd DFF
xff2 clk g2 q2 nq2 vcc gnd DFF
xinv11 vcc gnd q1 nnq1 NOT
xinv12 vcc gnd q2 nnq2 NOT  

************
.end
